US08609688B2
2-[(3-{3-[4-(1-Aminocyclobutyl)phenyl]-2-(2-aminopyridin-3-yl)-3H-imidazo[4,5-b]pyridin-5-yl}phenyl)amino]ethanol trihydrochloride
tert-Butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-{3-[(2-hydroxyethyl)amino]phenyl}-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate (73.0 mg, 0.123 mmol) was dissolved in DCM (1 mL). 4M HCl/dioxane (1 mL) was added to the minute and stirred at room temperature for 3.5 hours. The mixture was concentrated and solidified with ether. The precipitated solids were collected by filtration and washed with ether to afford desired product (61.2 mg, 82.6%) as yellow solid.

reactant | tert-Butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-{3-[(2-hydroxyethyl)amino]phenyl}-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate | 0.123 mmol, 73.0 mg | NC1=NC=CC=C1C1=NC=2C(=NC(=CC2)C2=CC(=CC=C2)NCCO)N1C1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O | C34H37N7O3
reactant | HCl dioxane | 4M, 1 mL | Cl.O1CCOCC1
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 2-[(3-{3-[4-(1-Aminocyclobutyl)phenyl]-2-(2-aminopyridin-3-yl)-3H-imidazo[4,5-b]pyridin-5-yl}phenyl)amino]ethanol trihydrochloride | 61.2 mg, 82.6% | Cl.Cl.Cl.NC1(CCC1)C1=CC=C(C=C1)N1C(=NC=2C1=NC(=CC2)C=2C=C(C=CC2)NCCO)C=2C(=NC=CC2)N | InChI=1S/C29H29N7O.3ClH/c30-26-23(6-2-15-33-26)27-35-25-12-11-24(19-4-1-5-21(18-19)32-16-17-37)34-28(25)36(27)22-9-7-20(8-10-22)29(31)13-3-14-29;;;/h1-2,4-12,15,18,32,37H,3,13-14,16-17,31H2,(H2,30,33);3*1H
